US08609656B2
2-Amino-N-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)acetamide hydrochloride (Table 1, Compound No. 97)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)-phenyl)urea hydrochloride and tert-butoxycarbonyl-glycine by using the same method as in Example 96.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)-phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | tert-butoxycarbonyl-glycine | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
product | 2-Amino-N-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)acetamide hydrochloride | Cl.NCC(=O)NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | InChI=1S/C21H16ClF3N8O2.ClH/c22-15-6-3-12(7-14(15)21(23,24)25)31-20(35)30-11-1-4-13(5-2-11)33-10-29-17-18(32-16(34)8-26)27-9-28-19(17)33;/h1-7,9-10H,8,26H2,(H2,30,31,35)(H,27,28,32,34);1H
